US05411942
The 64 g BocAsnGlyOBzl from above is dissolved in 500 ml MeOH and hydrogenated for 20 hours with 5 g 10% Pd-C as catalyst. The catalyst is removed by filtration and the solvent removed to give BocAsnGlyOH. This is dissolved in 200 ml DMF cooled to -20° C. and then activated with 20 g HoSu and 35 g DCC for 2 hours. 59 g BocGlyValOBzl is deBoced in HCl-EtAc, the HCl-EtAc removed by evaporation and the resulting oil taken up in 100 ml DMF and neutralized with 24 ml TEA. This is then added to the preactivated BocAsnGlyOSu. The mixture is stirred overnight, DCU removed by filtration and the DMF removed by evaporation. The residue is taken up in EtAc washed with sat. Nacl, sat. NaHCO3, and 10% citric acid. After drying the EtAc with MgSO4, it is removed by evaporation to give a powder, which is dried in a desiccator. Yield: 60 g (70%).

reactant | BocAsnGlyOBzl | 64 g | N([C@@H](CC(N)=O)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25N3O6
solvent | MeOH | 500 ml | CO | CH4O
catalyst | Pd-C | 5 g | [Pd] | Pd
product | BocAsnGlyOH | N([C@@H](CC(N)=O)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C11H19N3O6
